US08957080B2
Into a 1 L, 2-necked round-bottom flask purged and maintained under an inert atmosphere of nitrogen, was placed 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine (10 g, 38.31 mmol, 1.00 equiv), tert-butyl (2R)-2-(hydroxymethyl)pyrrolidine-1-carboxylate (15.4 g, 76.52 mmol, 2.00 equiv), PPh3 (20.1 g, 76.63 mmol, 2.00 equiv), and N,N-dimethylformamide (400 mL). DIAD (15.5 g, 76.65 mmol, 2.00 equiv) was added dropwise over 30 min. The resulting solution was stirred for 12 h at 25° C. and then diluted with 1 L of water. The resulting solution was extracted with ethyl acetate and the organic layers combined and washed with brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum and the residue was placed on a silica gel column and eluted with chloroform/methanol (100/1) to give 1.2 g (6%) of tert-butyl (2R)-2-([4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl)pyrrolidine-1-carboxylate as a off-white solid.

reactant | 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 38.31 mmol, 10 g, 1.00 equiv | IC1=NNC2=NC=NC(=C21)N | C5H4IN5
reactant | tert-butyl (2R)-2-(hydroxymethyl)pyrrolidine-1-carboxylate | 76.52 mmol, 15.4 g, 2.00 equiv | OC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | PPh3 | 76.63 mmol, 20.1 g, 2.00 equiv | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 76.65 mmol, 15.5 g, 2.00 equiv | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | water | 1 L | O | H2O
solvent | N,N-dimethylformamide | 400 mL | CN(C=O)C | C3H7NO
product | tert-butyl (2R)-2-([4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl)pyrrolidine-1-carboxylate | 1.2 g, 6% | NC1=C2C(=NC=N1)N(N=C2I)C[C@@H]2N(CCC2)C(=O)OC(C)(C)C | C15H21IN6O2
